US06448270B1
C) 4-Phenyl-1-(4-phenyl-3-butynyl)piperidine
A mixture of 1-mesyl-4-phenylbut-3-yne (200 mg, 0.870 mmol), 4-phenylpiperidine (120 mg, 0.744 mmol) and K2CO3 (308 mg, 2.23 mmol) in 10 mL of CH3CN is refluxed for 12 hr. The mixture is filtered and washed with EtOAc (3×15 mL). The filtrate is evaporated in vacuo and is purified by flash chromatography to give the product (104 mg, 41%): mp 65-66° C.; 1H NMR (CDCl3) 1.81 (m, 4 H), 2.26 (m, 2 H), 2.65 (m, 1 H), 2.69 (m, 2 H), 2.76 (m, 2 H), 3.13 (d, J=11 Hz, 2 H), 7.13-7.36 (m, 10 H).

reactant | 1-mesyl-4-phenylbut-3-yne | 0.870 mmol, 200 mg | S(=O)(=O)(C)CCC#CC1=CC=CC=C1 | C11H12O2S
reactant | 4-phenylpiperidine | 0.744 mmol, 120 mg | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | K2CO3 | 2.23 mmol, 308 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 4-Phenyl-1-(4-phenyl-3-butynyl)piperidine | 104 mg, 41% | C1(=CC=CC=C1)C1CCN(CC1)CCC#CC1=CC=CC=C1 | C21H23N
